US08017607B2
To a mixture rac-4-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-butyric acid (22.7 mg, 0.041 mmol, Example C11) in N,N-dimethyl formamide (2.5 mL) was added DIPEA (37.1 mg, 0.287 mmol) and HATU (25.1 mg, 0.066 mmol). After it was stirred at rt for 35 min, ground ammonium chloride (5.1 mg, 0.095 mmol,) was added. After 3 hrs the reaction mixture was extracted with EtOAc, and washed with water, 10% ammonium chloride, saturated sodium bicarbonate, water, and saturated NaCl. The organic phase was separated, and dried over Na2SO4. The reaction mixture was then purified by flash column to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (3-carbamoyl-propyl)-amide (19.4 mg, 85.6%). HRMS (ES+) m/z Calcd for C27H30Cl2F2N4O2+Na [(M+Na): 573.1606; Found: 573.1609.

reactant | rac-4-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-butyric acid | 0.041 mmol, 22.7 mg | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NCCCC(=O)O)F | C27H29Cl2F2N3O3
reactant | DIPEA | 0.287 mmol, 37.1 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.066 mmol, 25.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 0.095 mmol, 5.1 mg | [Cl-].[NH4+]
solvent | N,N-dimethyl formamide | 2.5 mL | CN(C=O)C | C3H7NO
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (3-carbamoyl-propyl)-amide | 19.4 mg, 85.6% | C(N)(=O)CCCNC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C27H30Cl2F2N4O2
